### ISSUE TITLE
`grind` annotations for OFE operations

### ISSUE THREAD

**Issue by markusdemedeiros** [larsk21/iris-lean#129]
In our development we have quite a few `calc` blocks such as: 
```lean
theorem Agree.includedN {x y : Agree α} : x ≼{n} y ↔ y ≡{n}≡ y • x := by
  refine ⟨fun ⟨z, h⟩ => ?_, fun h => ⟨y, h.trans op_commN⟩⟩
  have hid := idemp (x := x) |>.symm
  calc
    y ≡{n}≡ x • z := h
    _ ≡{n}≡ (x • x) • z := .op_l (hid n)
    _ ≡{n}≡ x • (x • z) := CMRA.op_assocN.symm
    _ ≡{n}≡ x • y := h.symm.op_r
    _ ≡{n}≡ y • x := op_commN
```

In my opinion, this is a great way to structure these proofs! I even like it better than the the Rocq version which uses setoid rewriting, because you're able to actually read these proofs, without trying to mentally reconstruct what effect each step has on the goal. 

I think they could be made even better if the proof terms were (mainly) inferred, and I think that `grind` might be the right tool to do that. Is it possible to add grind annotations to our codebase so that the bulk of the steps in these calc blocks are all resolved by grind?
